US06509346B2
To a stirred solution of 1-t-butoxycarbonyl-3-pyrrolidinone (0.57 g, 3.23 mmol) in THF (10 mL) was added 4-chlorophenyl magnesium bromide (1.0 M, 5.2 mL) under the protection of argon at 0° C. The reaction was stirred at room temperature for 1 hour then quenched by the addition of saturated aqueous NH4OH (8 mL). The aqueous layer was extracted with EtOAc (50 mL×2), dried over MgSO4 and concentrated in vacuo. Chromatographic purification on silica gel (Hexane/EtOAc=3/1) provided 0.57 g 1-t-butoxycarbonyl-3-(4-chlorophenyl)-3-hydroxypyrolidine (60%). m/z 298 (m+1).

reactant | 1-t-butoxycarbonyl-3-pyrrolidinone | 3.23 mmol, 0.57 g | C(C)(C)(C)OC(=O)N1CC(CC1)=O | C9H15NO3
reactant | 4-chlorophenyl magnesium bromide | 1.0 M, 5.2 mL | ClC1=CC=C(C=C1)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-t-butoxycarbonyl-3-(4-chlorophenyl)-3-hydroxypyrolidine | 0.57 g, 60% | C(C)(C)(C)OC(=O)N1CC(CC1)(O)C1=CC=C(C=C1)Cl | C15H20ClNO3
